US07692005B2
1,5-Dimethyl-1H-pyrazole-4-carboxylic acid [3-(2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (0.172 g, 0.4594 mmol) and ethyl formate (0.111 mL, 1.37 mmol) were dissolved in anhydrous ethanol (5 mL). The resulting solution was treated in dropwise fashion with a 21 wt % solution of sodium ethoxide in ethanol (0.86 mL, 2.3 mmol). This reaction mixture was heated at 78° C. for 0.5 h, producing a black oil. Subsequently, the reaction mixture was cooled to room temperature, and then the reaction pH was adjusted to pH 1 with dropwise addition of 1M HCH(aq) causing the formation of a brown precipitate. The suspension was filtered and the solids were washed with 0° C. EtOH to afford the pure 1,5-Dimethyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (0.136 g, 0.34 mmol, 74%).

reactant | 1,5-Dimethyl-1H-pyrazole-4-carboxylic acid [3-(2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.4594 mmol, 0.172 g | O=C1NC2=CC(=CC=C2C1)C(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN(C1C)C | C21H18N4O3
reactant | ethyl formate | 1.37 mmol, 0.111 mL | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | EtOH | CCO | C2H6O
solvent | ethanol | 2.3 mmol, 0.86 mL | C(C)O | C2H6O
product | 1,5-Dimethyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.34 mmol, 0.136 g, 74% | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN(C1C)C)=O | C22H18N4O4
